US06919336B2
[4-(2,4-Difluoro-phenylamino)-phenyl]-[5-((E)-3-dimethylamino-propenyl)-2-methoxy-phenyl]-methanone
Dimethyl-((E)-3-tributylstannanyl-allyl)-amine (213 mg, 0.57 mmol) and (5-bromo-2-methoxy-phenyl)-[4-(2,4-difluoro-phenylamino)-phenyl]-methanone (200 mg, 0.475 mmol) are added to a solution of Pd(OAc)2 (10 mg, 0.047 mmol) and PPh3 (50 mg, 0.19 mmol) in diethylene glycol dimethyl ether (12 ml) and heated to 135 C under argon for 30 minutes. The reaction mixture is evaporated to dryness and purified via chromatography (SiO2, acetone/hexanes 6/4>1/0 followed by TBME/MeOH/NH3conc 100/0/0>90/10/1) to yield the crude product, which is dissolved in 2N HCl, washed with TBME and the aqueous phase made alkaline with saturated Na2CO3. Extraction with EtOAc and evaporation of the organic phase delivers the title compound, which was dissolved in acetone and filtered through a bed of SiO2 to give the desired product as yellow foam (55 mg; 28%).

reactant | Dimethyl-((E)-3-tributylstannanyl-allyl)-amine | 0.57 mmol, 213 mg | CN(C\C=C\[Sn](CCCC)(CCCC)CCCC)C
reactant | (5-bromo-2-methoxy-phenyl)-[4-(2,4-difluoro-phenylamino)-phenyl]-methanone | 0.475 mmol, 200 mg | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)NC1=C(C=C(C=C1)F)F)OC | C20H14BrF2NO2
reactant | PPh3 | 0.19 mmol, 50 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | diethylene glycol dimethyl ether | 12 ml | COCCOCCOC | C6H14O3
solvent | HCl | 2N | Cl | ClH
catalyst | Pd(OAc)2 | 0.047 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [4-(2,4-Difluoro-phenylamino)-phenyl]-[5-((E)-3-dimethylamino-propenyl)-2-methoxy-phenyl]-methanone | 55 mg, 28% | FC1=C(C=CC(=C1)F)NC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)\C=C\CN(C)C)OC | C25H24F2N2O2
